US05290949
Synthesis of 4-ethyl-3-(3-fluorophenyl)-1-(3-trifluoromethylphenyl)-3-pyrroline-2-one
2.74 g (7.47 mmol) of N-(3-trifluoromethylphenyl)-N-(2-oxobutyl)-3-fluorophenylacetamide synthesized in the same manner as in Example 3 were dissolved in 30 ml of ethanol, and 0.05 ml of an ethanol solution containing 30% of sodium ethoxide was added thereto at room temperature with stirring. The solution was stirred at the same temperature for 2 hours, and the resultant reaction mixture was then poured into water, followed by extraction with ethyl acetate. Afterward, the resultant organic layer was dried over magnesium sulfate, and the solvent was distilled off under reduced pressure. The precipitated crystals were collected by filtration, and then washed with diethyl ether to obtain 2.15 g of the desired product in the state of colorless crystals (yield 82.4%).

reactant | N-(3-trifluoromethylphenyl)-N-(2-oxobutyl)-3-fluorophenylacetamide | 7.47 mmol, 2.74 g | FC(C=1C=C(C=CC1)N(C(CC1=CC(=CC=C1)F)=O)CC(CC)=O)(F)F | C19H17F4NO2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | water | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 0.05 ml | C(C)O | C2H6O
product | 4-ethyl-3-(3-fluorophenyl)-1-(3-trifluoromethylphenyl)-3-pyrroline-2-one | 2.15 g | C(C)C1=C(C(N(C1)C1=CC(=CC=C1)C(F)(F)F)=O)C1=CC(=CC=C1)F | C19H15F4NO
